US09085583B2
To a solution of 2-methyl-1-(1-phenylethyl)-1H-indole-3-carboxylic acid (66 mg, 0.24 mmol) in anhydrous dichloromethane (5 mL) was added N-hydroxybenzotriazole (38 mg, 0.29 mmol), 1-ethyl-3-[3-(dimethylamino)propyl]carbodiimide (55 mg, 0.29 mmol) and trimethylamine (36 mg, 0.36 mmol), and stirred at room temperature for 0.5 hour, 3-(aminomethyl)-4-methoxy-6-methylpyridin-2(1H)-one (40 mg, 0.24 mmol) was added and stirred at room temperature for 16 hours. To the reaction mixture was added water (10 mL), extracted with dichloromethane (10 mL) 2 times, combined and concentrated the organic layers, the residue was purified by column chromatography (silica gel, dichloromethane/methanol=20:1) to give N-((4-methoxy-6-methyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-1-(1-phenylethyl)-1H-indole-3-carboxamide as an off-white solid (0.08 g, 52%). LRMS (M+H+) m/z: calcd 429.21. found 429.

reactant | 2-methyl-1-(1-phenylethyl)-1H-indole-3-carboxylic acid | 0.24 mmol, 66 mg | CC=1N(C2=CC=CC=C2C1C(=O)O)C(C)C1=CC=CC=C1 | C18H17NO2
reactant | N-hydroxybenzotriazole | 0.29 mmol, 38 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-[3-(dimethylamino)propyl]carbodiimide | 0.29 mmol, 55 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | trimethylamine | 0.36 mmol, 36 mg | CN(C)C | C3H9N
reactant | 3-(aminomethyl)-4-methoxy-6-methylpyridin-2(1H)-one | 0.24 mmol, 40 mg | NCC=1C(NC(=CC1OC)C)=O | C8H12N2O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | N-((4-methoxy-6-methyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-1-(1-phenylethyl)-1H-indole-3-carboxamide | 0.08 g, 52% | COC1=C(C(NC(=C1)C)=O)CNC(=O)C1=C(N(C2=CC=CC=C12)C(C)C1=CC=CC=C1)C | C26H27N3O3
